US04490533
B. 3-(6-Dimethylaminomethyl-2-pyridyloxy)propylamine
N-[3-(6-dimethylaminomethyl-2-pyridyloxy) propyl]formamide (2.7 g, 0.013 mol) is added to a solution of 85% potassium hydroxide pellets (3.0 g) dissolved in methanol (30 ml) and heated at gentle reflux for 21 hours. The reaction is cooled, diluted with diethyl ether (30 ml), the precipitated salts filtered, and the solvent removed under vacuum. The residue is dissolved in water and the product exhaustively extracted into ethanol/chloroform, dried and evaporated to give 2.1 g of pure product.

reactant | N-[3-(6-dimethylaminomethyl-2-pyridyloxy) propyl]formamide | 0.013 mol, 2.7 g | CN(C)CC1=CC=CC(=N1)OCCCNC=O | C12H19N3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 3-(6-Dimethylaminomethyl-2-pyridyloxy)propylamine | 2.1 g | CN(C)CC1=CC=CC(=N1)OCCCN | C11H19N3O
